2193-03-16 09:41:00 Physician Attending Progress Note
Chief Complaint: SOB
   chest and abd pain
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   51M HepC - GI bleed
   recent d/c for viral myocarditis
   coffee ground emesis at home
   abd CT - colitis
   chest CT - ? asp pna
   Hct 26, being transfused
   BP stable, worsening O2 needs
   24 Hour Events:
   receiving blood
   vit K
   History obtained from Patient
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Pantoprazole (Protonix) - 8 mg/hour
   Other ICU medications:
   Morphine Sulfate - [**2193-3-16**] 06:59 AM
   Other medications:
   levoflox
   vanco
   flagyl
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Gastrointestinal: Abdominal pain
   Flowsheet Data as of  [**2193-3-16**] 09:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.6
C (99.6
   HR: 106 (106 - 114) bpm
   BP: 110/64(74) {110/64(74) - 122/73(83)} mmHg
   RR: 19 (14 - 20) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
           Total In:
           1,266 mL
   PO:
           TF:
   IVF:
   1,137 mL
   Blood products:
   128 mL
   Total out:
                                                                      0 mL
                                                                    210 mL
   Urine:
   210 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                  1,056 mL
   Respiratory support
   O2 Delivery Device: Non-rebreather
   Ventilator mode: 10LPM FM
   SpO2: 97%
   ABG: 7.39/39/106/26/0
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   )
   Abdominal: Soft, Tender: mild throughout
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.0 g/dL
   217 K/uL
   111 mg/dL
   1.4 mg/dL
   26 mEq/L
   4.1 mEq/L
   51 mg/dL
   115 mEq/L
   145 mEq/L
   26.0 %
   14.2 K/uL
        [image002.jpg]
                             [**2193-3-16**]  05:28 AM
                             [**2193-3-16**]  05:42 AM
   WBC
   14.2
   Hct
   26.0
   Plt
   217
   Cr
   1.4
   TropT
   0.75
   TCO2
   24
   Glucose
   111
   Other labs: PT / PTT / INR:15.9/33.5/1.4, CK / CKMB /
   Troponin-T:1102/12/0.75, Differential-Neuts:81.4 %, Lymph:13.9 %,
   Mono:4.5 %, Eos:0.0 %, Lactic Acid:1.6 mmol/L, Ca++:8.0 mg/dL, Mg++:2.1
   mg/dL, PO4:2.4 mg/dL
   Fluid analysis / Other labs: 7.39/39/106 on 10L
   Imaging: chest CT - multilobar pna throughout right, old surgical clips
   Assessment and Plan
   pneumonia - O2 needs stable, continue broad coverage for HAP and CAP
 .H/O HEPATITIS, ETOH abuse - need to obtain old records to determine
   whether cirrhosis present
 HYPOXEMIA - O2 needs stable, wean as tolerated
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB) - was on motrin, on
   PPI, transfusion, GI following, no EGD for now
 .H/O HYPERTENSION, BENIGN
   colitis - await CDiff, stop flagyl if negative
 H/O MYOCARDITIS, ACUTE - echo done this morning, enzymes improving
 H/O ALCOHOL ABUSE - not actively drinking
   ICU Care
   Nutrition:
   Glycemic Control:  Comments: 4 PIVs
   Lines:
   18 Gauge - [**2193-3-16**] 06:21 AM
   20 Gauge - [**2193-3-16**] 06:22 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 37 minutes
   Patient is critically ill

2193-03-17 10:59:00 Physician Attending Progress Note
Chief Complaint: SOB, gi bleed
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   EGD - gastritis, MW tear
   echo hyperdynamic LV, PAH
   24 Hour Events:
                                 History obtained from Patient
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Levofloxacin - [**2193-3-16**] 10:00 AM
   Metronidazole - [**2193-3-16**] 11:00 AM
   Meropenem - [**2193-3-17**] 06:40 AM
   Vancomycin - [**2193-3-17**] 08:30 AM
   Infusions:
   Pantoprazole (Protonix) - 8 mg/hour
   Other ICU medications:
   Morphine Sulfate - [**2193-3-17**] 07:34 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-3-17**] 10:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.2
C (98.9
   HR: 92 (91 - 105) bpm
   BP: 138/79(93) {106/62(74) - 142/89(125)} mmHg
   RR: 24 (16 - 27) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  3,143 mL
                                                                  1,007 mL
   PO:
             TF:
   IVF:
                                                                  2,393 mL
                                                                  1,007 mL
   Blood products:
                                                                    750 mL
   Total out:
                                                                  1,245 mL
                                                                    625 mL
   Urine:
                                                                  1,245 mL
                                                                    625 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,898 mL
                                                                    382 mL
   Respiratory support
   O2 Delivery Device: None
   Ventilator mode: RA
   SpO2: 95%
   ABG: ///26/
   Physical Examination
   General Appearance: Overweight / Obese
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.7 g/dL
   175 K/uL
   105 mg/dL
   0.9 mg/dL
   26 mEq/L
   4.0 mEq/L
   26 mg/dL
   117 mEq/L
   147 mEq/L
   27.4 %
   12.2 K/uL
        [image002.jpg]
                             [**2193-3-16**]  05:28 AM
                             [**2193-3-16**]  05:42 AM
                             [**2193-3-16**]  03:37 PM
                             [**2193-3-16**]  10:51 PM
                             [**2193-3-17**]  04:13 AM
   WBC
   14.2
   12.2
   Hct
   26.0
   27.8
   27.3
   27.4
   Plt
   217
   175
   Cr
   1.4
   0.9
   TropT
   0.75
   TCO2
   24
   Glucose
   111
   105
   Other labs: PT / PTT / INR:14.6/31.0/1.3, CK / CKMB /
   Troponin-T:1102/12/0.75, ALT / AST:47/64, Alk Phos / T Bili:52/0.8,
   Differential-Neuts:81.4 %, Lymph:13.9 %, Mono:4.5 %, Eos:0.0 %, Lactic
   Acid:1.6 mmol/L, Albumin:3.0 g/dL, Ca++:8.0 mg/dL, Mg++:2.2 mg/dL,
   PO4:2.0 mg/dL
   Imaging: CXR stable right infiltrates
   Assessment and Plan
   pneumonia - O2 needs improved, continue vanco and [**Last Name (un) **] for HAP versus
   asp pna for 10 days
 .H/O HEPATITIS, ETOH abuse - need to obtain old records to determine
   whether cirrhosis present
 HYPOXEMIA - O2 needs improved, wean as tolerated
 GASTROINTESTINAL BLEED, blood loss anemia  - was on motrin, EGD
   showed gastritis and MW tear, on PPI - convert to PO, follow Hct
 .H/O HYPERTENSION, BENIGN  - holding anti-HTNives
   colitis - await CDiff
 H/O MYOCARDITIS, ACUTE - echo reassuring, enzymes improving
 H/O ALCOHOL ABUSE - not actively drinking
 .H/O PULMONARY HYPERTENSION (PULM HTN, PHTN) - entual outpatient w/u
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2193-3-16**] 06:21 AM
   20 Gauge - [**2193-3-16**] 06:22 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent:

2193-03-18 06:21:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - hct's stable
   - continued to have diffuse abdominal pain
   - CT read concerning for ischemic colitis, [**Doctor First Name 91**] consulted
   - repeat CTA showed resolved air in portal system, possible improvement
   in colitis
   - changed abx to vanco and levo for HAP; continued levo and added
   flagyl for colitis
   - discussed whether prepping for colonscopy would be prudent, but for
   now will continue to monitor clinically, trend lactates which have been
   normal since admission
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Levofloxacin - [**2193-3-16**] 10:00 AM
   Metronidazole - [**2193-3-16**] 11:00 AM
   Meropenem - [**2193-3-17**] 06:26 PM
   Vancomycin - [**2193-3-17**] 08:00 PM
   Infusions:
   Pantoprazole (Protonix) - 8 mg/hour
   Other ICU medications:
   Morphine Sulfate - [**2193-3-18**] 02:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-3-18**] 06:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 36.5
C (97.7
   HR: 81 (81 - 95) bpm
   BP: 147/89(102) {119/60(78) - 151/93(104)} mmHg
   RR: 26 (14 - 32) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  3,678 mL
                                                                  1,077 mL
   PO:
                                                                     60 mL
             TF:
   IVF:
                                                                  3,618 mL
                                                                  1,077 mL
   Blood products:
   Total out:
                                                                  1,885 mL
                                                                    760 mL
   Urine:
                                                                  1,885 mL
                                                                    760 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,793 mL
                                                                    319 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: 7.51/34/81.[**Numeric Identifier **]/25/3
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : R-side predominant,
   No(t) Wheezes : , Diminished: right)
   Abdominal: Soft, Tender: LLQ TTP, + rebound no guarding
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands
   Labs / Radiology
   172 K/uL
   9.4 g/dL
   96 mg/dL
   0.7 mg/dL
   25 mEq/L
   3.5 mEq/L
   14 mg/dL
   112 mEq/L
   142 mEq/L
   26.6 %
   11.7 K/uL
        [image002.jpg]
                             [**2193-3-16**]  05:28 AM
                             [**2193-3-16**]  05:42 AM
                             [**2193-3-16**]  03:37 PM
                             [**2193-3-16**]  10:51 PM
                             [**2193-3-17**]  04:13 AM
                             [**2193-3-17**]  01:51 PM
                             [**2193-3-17**]  05:16 PM
                             [**2193-3-18**]  02:12 AM
   WBC
   14.2
   12.2
   11.7
   Hct
   26.0
   27.8
   27.3
   27.4
   29.4
   31
   26.6
   Plt
   [**Telephone/Fax (3) 4805**]
   Cr
   1.4
   0.9
   0.7
   TropT
   0.75
   0.46
   TCO2
   24
   28
   Glucose
   111
   105
   96
   Other labs: PT / PTT / INR:14.8/32.0/1.3, CK / CKMB /
   Troponin-T:416/3/0.46, ALT / AST:47/64, Alk Phos / T Bili:52/0.8,
   Differential-Neuts:81.4 %, Lymph:13.9 %, Mono:4.5 %, Eos:0.0 %, Lactic
   Acid:0.9 mmol/L, Albumin:3.0 g/dL, Ca++:8.0 mg/dL, Mg++:1.9 mg/dL,
   PO4:2.2 mg/dL
   Assessment and Plan
   This is a 51 y/o M w/ hep C who presented with UGIB after 3d of high
   dose ibuprofen for new dx of myopericarditis manifested by coffee
   ground emesis and asp pna vs. HAP.
   .
   # GI Bleed: Certainly possible gastritis, some concern for variceal
   bleeding given h/o liver disease.  Possibly ulcer disease, AVM or other
   upper GI source.  New finding of colitis on colonoscopy not likely
   source for bleed but may explain guaiac positive stool. Patient was
   initially placed on PPI ggt and was scoped by GI. Patient was
   transfused total of 2u PRBC, Hct stable. GI recs to place on PPI [**Hospital1 **],
   avoid NSAID's, saw [**First Name4 (NamePattern1) 1862**] [**Last Name (NamePattern1) **] tear.
   - HCT [**Hospital1 **]
   -2  large bore IV's
   .
   # Abdominal Pain: Initial Abd/Pelvis CT concerning for ?ischemic
   colitis but f/u CTA did not reveal ischemic colitis.  Abdominal pain
   likely related GI bleed -> gastritis, MW tear, PUD and colitis.  Could
   also be [**2-25**] R-sided PNA.
   - continue to follow serial abdominal exams
   .
   # Hypoxemia/Pneumonia: Recently hospitalized, fever, WBC count, and CT
   findings of infiltrate.  Likely [**2-25**] to aspiration of gastric contents.
   Could be sequelae of initial viral infection vs. true bacterial
   infection vs. pneumonitis.  Would also consider pulmonary vasculitis
   given renal involvement as well. Patient currently on vanc/meropenem.
   History is more consistent with HAP vs  asp pna than CAP. Responding
   well to current abx, O2 req weaned from ventimask to NC 2L sats 95%.
   - f/u cultures sputum, blood
   - will treat with vanc/meropenem for 14 day course given severe HAP
   pna.
   - if respikes, can cover for atypicals with azithromycin vs. levo
   - rule out with viral panel for influenza, until then cont droplet
   precautions
   - continue to wean O2 as tolerated
   .
   # Tachycardia: resolved, volume depletion from bleeding vs. sepsis.
   Low suspicion for etoh withdrawal as patient emphatically denies etoh
   abuse.  Does take benzo's as outpatient so would worry about benzo
   withdrawal.  Would consider tamponade given h/o myo-pericarditis.
   .
   # Myo-pericarditis: Troponin trending down and CK flat.  Echo, no
   evidence of effusion or tamponade.
   # Colitis: Ischemic vs. inflammatory, treatment covered with anaerobic
   coverage of 14d course of meropenem for HAP.
   - Check stool studies
   - Check C. Diff
   .
   # Hepatitis: Await EGD to evaluate for varices.  consider viral load.
   .
   # HTN: Hold outpatient medications.
   .
   # FEN: IVF, replete electrolytes, regular diet
   - for Na 147, given D5W 500cc bolus
   .
   # Prophylaxis: no SQH given GIB, pneumoboots and ambulation
   .
   # Access: peripherals
   .
   # Code: full
   .
   # Communication: Patient
   .
   # Disposition: HCT stable, O2 requirement weaned, stable for floor
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2193-3-16**] 05:07 PM
   20 Gauge - [**2193-3-17**] 06:28 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition: